US05403816
Preparation of methyl 6-(N-acetylamino)-3-[(4,6-dimethoxypyridin-2-yl)oxy]picolinate
318.9 g (1.04 mol) of methyl 6-amino-3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinate and 157.6 g (1.14 mol) of potassium carbonate were dissolved in MEK, and 89.8 g (1.14 mol) of acetyl chloride was added thereto at room temperature. The mixture was refluxed under heating (75° C.) for two hours. MEK was concentrated to a half amount and then cooled. The reaction solution was poured into ice water and crystallized. Crystals thereby obtained was collected by filtration and washed with water. The crystals were dissolved in dichloromethane and subjected to liquid separation. The dichloromethane layer was dried over anhydrous magnesium sulfate and then concentrated. A small amount of diisopropyl ether were added thereto, and the mixture was cooled for crystallization. The crystals thereby obtained were recrystallized from 100 ml of ethanol. The crystals thereby obtained were washed with diisopropyl ether and then dried at 50° C. for 24 hours to obtain the desired product as a white powder.

reactant | methyl 6-amino-3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinate | 1.04 mol, 318.9 g | NC1=CC=C(C(=N1)C(=O)OC)OC1=NC(=CC(=N1)OC)OC | C13H14N4O5
reactant | potassium carbonate | 1.14 mol, 157.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetyl chloride | 1.14 mol, 89.8 g | C(C)(=O)Cl | C2H3ClO
solvent | MEK | CCC(=O)C | C4H8O
product | methyl 6-(N-acetylamino)-3-[(4,6-dimethoxypyridin-2-yl)oxy]picolinate | yield: 81% | C(C)(=O)NC1=CC=C(C(=N1)C(=O)OC)OC1=NC(=CC(=C1)OC)OC | C16H17N3O6
